US04810712
3,4-Dihydro-6-[1-hydroxy-2-[(1,1-dimethyl-3-phenyl-propyl)-amino]-ethyl]-quinolin-2(1H)-one
A solution of 1.4 g (0.006 mole) of 3,4-dihydro-6-(alpha,alpha-dihydroxy-acetyl)-quinolin-2-(1H)-one and 1.37 g (0.008 mole) of 1,1-dimethyl-3-phenyl-propanamine in 60 ml of ethanol and 30 ml of dimethylformamide is heated to 80° C. for 2 hours and, after cooling to room temperature, about 1.5 g of sodium borohydride are gradually added. After 2 hours, the mixture is acidified with acetic acid and the solvent is evaporated off in vacuo. After being rendered alkaline with 2N sodium hydroxide solution, the residue is extracted with methylene chloride. The residue of the organic phase is purified by column chromatography on silica gel (CHCl3 /MeOH 93/7).

reactant | 3,4-dihydro-6-(alpha,alpha-dihydroxy-acetyl)-quinolin-2-(1H)-one | 0.006 mole, 1.4 g | OC(C(=O)C=1C=C2CCC(NC2=CC1)=O)O | C11H11NO4
reactant | 1,1-dimethyl-3-phenyl-propanamine | 0.008 mole, 1.37 g | CC(CCC1=CC=CC=C1)(N)C | C11H17N
reactant | sodium borohydride | about 1.5 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 3,4-Dihydro-6-[1-hydroxy-2-[(1,1-dimethyl-3-phenyl-propyl)-amino]-ethyl]-quinolin-2(1H)-one | OC(CNC(CCC1=CC=CC=C1)(C)C)C=1C=C2CCC(NC2=CC1)=O | C22H28N2O2
